US06245761B1
Preparation of 3-bromo-2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indole
Under an argon atmosphere in a round bottom flask 2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indole (5.0 g, 18.40 mmol) was dissolved in 46 ml of tetrahydrofuran. To this solution was added N-bromosuccinimide (3.28 g, 18.4 mmol of a freshly recrystallized lot), dissolved in 46 ml of tetrahydrofuran. The resulting mixture was stirred over an ice bath for about 3.5 hours, after which time the reaction mixture was poured into about 500 ml of water in which 5.0 grams of sodium sulfate had been dissolved.

reactant | 2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indole | 18.40 mmol, 5.0 g | ClC1=CC=C(OCC=2N(C3=CC=CC=C3C2)C)C=C1 | C16H14ClNO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | about 500 ml | O | H2O
reactant | sodium sulfate | 5.0 grams | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 46 ml | O1CCCC1 | C4H8O
product | 3-bromo-2-[(4-chlorophenoxy)methyl]-1-methyl-1H-indole | BrC1=C(N(C2=CC=CC=C12)C)COC1=CC=C(C=C1)Cl | C16H13BrClNO
